US07605166B2
Preparation of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl)methylamino] pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl)propionic acid
General. Flash chromatography was performed using a Biotage Flash 75L, using 800 g KP-Sil silica cartridges (32-63 μM, 60 angstrom, 500-550 m2/g). Rfs are reported for analytical thin layer chromatography, using EM Science Silica Gel F(254) 250 μM thick plates for normal phase, and Watman MKCl 8F 200 μM thick plates for reverse phase. Step 1: Preparation of 2,4-Dichloro-5-nitropyrimidine. 5-Nitrouracil, was treated with phosphorous oxychloride and N,N-dimethylaniline, according to the procedure of Whittaker (J. Chem. Soc. 1951, 1565), to give the title compound, which is also available from City Chemical (West Haven, Conn.). Step 2: Preparation of 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-hydroxyphenyl)propionic acid, t-butyl ester. To a solution of 2-amino-3-(4-hydroxyphenyl)propionic acid, (30.6 g, 0.129 mol) in THF (250 mL) at −10C was added 2,4-Dichloro-5-nitropyrimidine (25 g, 0.129 mol), keeping the temperature below 5° C. during the addition. Once the addition was complete, N,N-diisopropylethylamine (33.7 mL, 0.194 mol) was added dropwise. After stirring for 1 h at −10° C, diethylamine (66.73 mL, 0.645 mol) was added slowly, and then the reaction mixture was warmed to room temperature overnight. The reaction mixture was diluted with diethyl ether (500 mL), and the organic layer was washed with 0.2 N citric acid (3×150 mL), water (1×150 mL); and 10% K2CO3 (3×0.150 mL). The organic phase was dried (Na2SO4), filtered, and concentrated in vacuo to yield a yellow residue. The residue was purified by flash chromatography (20% EtOAc/hexanes on silica gel) to yield 37.39 g (67%) the title compound as a yellow foam. Rf=0.21 (25% EtOAc/hexanes on silica gel). Step 3: Preparation of 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-dimethylcarbamoyloxyphenyl)propionic acid t-butyl ester. To a solution of 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-hydroxy-phenyl)propionic acid t-butyl ester (31.80 g, 0.074 mol) in CH2Cl2 (600 mL) was added DMAP (9.00 g, 0.074 mol). After 5 minutes triethylamine (10.23 mL, 0.074 mol) was added dropwise. N,N-dimethylcarbamyl chloride (13.83 mL, 0.110 mol) was added dropwise, and the reaction was heated to reflux overnight. The reaction mixture was concentrated in vacuo and taken up in EtOAc (1 L). The organic phase was washed with 0.5 M citric acid (3×250 mL), sat. NaHCO3 (3×250 mL), brine (1×250 mL), dried (MgSO4), filtered, and concentrated in vacuo to yield 37.0 g (99%) the title compound as a white solid. Step 4: Preparation of 2-(2-diethylamino-5-aminopyrimidin-4-ylamino)-3-(4-dimethylcarbamoyloxyphenyl)propionic acid t-butyl ester. A mixture of 2-(2-diethylamino-5-nitropyrimidin-4-ylamino)-3-(4-dimethylcarbamoyl-oxyphenyl)propionic acid t-butyl ester (37.0 g, 0.073 mol) and 10% Pd/C (3.8 g, 10 wt % Pd) in EtOH (250 mL) wasshaken under 60 psi hydrogen until TLC (50% EtOAc/hexanes on silica gel) showed 100% conversion to product (48 hours). The reaction mixture was then filtered through a Celite plug and concentrated in vacuo to yield 32.0 g (92%) the title compound as a violet foam. Step 5: Preparation of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) amino]-pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid t-butyl ester. A pyridine (120 mL) solution of 2-(2-diethylamino-5-aminopyrimidin-4-ylamino)-3-(4-dimethylcarbamoyloxy-phenyl)propionic acid t-butyl ester (32.0 g, 0.067 mol) was cooled to −20° C. with a dry ice/CH3CN bath. The mixture stirred for 30 minutes, and then p-fluorobenzenesulfonyl chloride (13.18 g, 0.067 mol) was added slowly. The reaction was stirred at −20° C. for 4.5 hrs, and then 3-dimethylaminopropyl amine (8.52 mL, 0.067 mol) was added, and then the mixture was allowed to warm to room temperature overnight. The reaction was concentrated in vacuo. The residue was taken up in EtOAc (1 L), and the organic phase was washed with 0.5 M citric acid (3×900 mL), water (1×900 mL), sat. NaHCO3 (3×900 mL), brine (1×900 mL), dried (MgSO4), filtered, and concentrated in vacuo to yield a brown residue. The residue was purified by flash chromatography (50% EtOAc/hexanes on silica gel) to yield 33.04 g (77%) the title compound as a yellow foam. RF 0.54 (3:2 EtOAc/hexanes on silica gel). Step 6: Preparation of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]-pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid t-butyl ester. To a solution of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl)amino]-pyrimidin-4-ylamino}-3-(4-dimethyl-carbamoyloxyphenyl)propionic acid t-butyl ester (33.04 g, 0.052 mol) in acetone (510 mL) was added K2CO3 (8.69 g, 0.063 mol), and the mixture was stirred for 10 min at room temperature. Dimethyl sulfate (5.95 mL, 0.063 mol) was then added slowly, and the reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo, and the residue was taken up in EtOAc (600 mL). The organic phase was washed with water (2×400 mL), brine (2×400 mL), dried MgSO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (2:1 hexanes/EtOAc on silica gel) to yield 28.69 g (85%) the title compound as a white solid. Step 7: Preparation of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid hydrochloride. A formic acid (500 mL) solution of 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]-pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid t-butyl ester (28.69 g, 0.044 mol) was heated to 70° C. for 2 h, and then concentrated in vacuo. The residue was dissolved again in formic acid (500 mL), and then heated again at 70° C. for 2 h, and then concentrated again in vacuo. The residue was dissolved again in formic acid (500 mL), and then heated again at 70° C. for 1 h. The solution was reduced in volume by 90%, and then treated with 1.0 M HCl (44 mL, 0.044 mol) and distilled water (490 mL). The resulting homogeneous solution was concentrated in vacuo, and then distilled water (100 mL) was added, and the homogenous solution was lyophilized over 14 days to yield 26.76 g (96%) the title compound, as a white solid.

reactant | 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid hydrochloride | Cl.C(C)N(C1=NC=C(C(=N1)NC(C(=O)O)CC1=CC=C(C=C1)OC(N(C)C)=O)NCS(=O)(=O)C1=CC=C(C=C1)F)CC
reactant | 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl) methylamino]-pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl) propionic acid t-butyl ester | 0.044 mol, 28.69 g | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OC(N(C)C)=O)NC1=NC(=NC=C1NCS(=O)(=O)C1=CC=C(C=C1)F)N(CC)CC)=O | C31H41FN6O6S
reactant | HCl | 0.044 mol, 1.0 M, 44 mL | Cl | ClH
solvent | formic acid | 500 mL | C(=O)O | CH2O2
product | 2-{2-diethylamino-5-[(4-fluorobenzenesulfonyl)methylamino] pyrimidin-4-ylamino}-3-(4-dimethylcarbamoyloxyphenyl)propionic acid | 26.76 g, 96% | C(C)N(C1=NC=C(C(=N1)NC(C(=O)O)CC1=CC=C(C=C1)OC(N(C)C)=O)NCS(=O)(=O)C1=CC=C(C=C1)F)CC | C27H33FN6O6S
